US09290451B2
a) 2-(tert-Butoxycarbonylamino)-2-ethylbutanoic acid
3-aminopentane-3-carboxylic acid (CAN 2566-29-2, 2.0 g, 15.3 mmol) was combined with dioxane (100 mL) to give a colorless suspension. Sodium hydroxide (22.7 ml, 22.7 mmol, 1N) was added dropwise at 0° C. within 10 min to give a colorless solution. Di-tert-butyl dicarbonate (CAN 24424-99-5, 6.7 g, 30.9 mmol) was added in three portions. The reaction was stirred for 30 min to give a colorless suspension. Then dioxane (30 mL) was added (using less solvent resulted in a thick suspension) and the mixture was stirred for 17 h at ambient temperature. The reaction mixture was concentrated in vacuo to a volume of 50 mL and poured into 200 mL water. Then the mixture was washed with ethyl acetate (3×80 ml). The aqueous layers were combined, 2N hydrochloric acid was added to adjust the pH to 2, and the mixture was extracted with ethyl acetate (3×60 mL). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated in vacuo to give product (1.0 g, 28%).

reactant | 3-aminopentane-3-carboxylic acid | 15.3 mmol, 2.0 g | NC(CC)(CC)C(=O)O | C6H13NO2
reactant | Sodium hydroxide | 22.7 mmol, 1N, 22.7 ml | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 30.9 mmol, 6.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(tert-Butoxycarbonylamino)-2-ethylbutanoic acid | 1.0 g, 28% | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC)CC | C11H21NO4
